US08426540B2
Using 3-aminobiphenyl-4-ol and 5-(2-(trifluoromethyl)phenyl)furan-2-carbaldehyde, 1.64 g of 3-{[5-(2-(trifluoromethyl)phenyl)furan-2-yl]methyleneamino}biphenyl-4-ol was obtained as an orange powder (yield 34%).

reactant | 3-aminobiphenyl-4-ol | NC=1C=C(C=CC1O)C1=CC=CC=C1 | C12H11NO
reactant | 5-(2-(trifluoromethyl)phenyl)furan-2-carbaldehyde | FC(C1=C(C=CC=C1)C1=CC=C(O1)C=O)(F)F | C12H7F3O2
product | 3-{[5-(2-(trifluoromethyl)phenyl)furan-2-yl]methyleneamino}biphenyl-4-ol | 1.64 g | FC(C1=C(C=CC=C1)C1=CC=C(O1)C=NC=1C=C(C=CC1O)C1=CC=CC=C1)(F)F | C24H16F3NO2
